* C:\Boti\git\game\hardware\vga conn.asc
V1 P001 0 3.3
V2 P002 0 3.3
V3 P003 0 3.3
R1 N001 P001 2000
R2 N001 P002 1000
R3 N001 P003 500
R4 0 N001 75
.tran 1
.backanno
.end
